US04927814
2 mole nonylamine are reacted with 1 mole valeroyl chloride in diethyl ether, the suspension is filtered off with suction, the filtrate is evaporated and N-nonyl-valeric acid amide is thus obtained quantitatively; m.p. 29°-31° C. Reduction with 1.65 mole lithium aluminium hydride in diethyl ether gives a colourless oil in a yield of 78% of theory; b.p. 142°-146° C./16 mm.Hg. The addition of this N-nonyl-N-pentylamine to methyl acrylate (oil; yield 96% of theory) and subsequent saponification with 1N aqeuous sodium hydroxide solution gives a yield of 64% of theory of pasty 3-(N-nonyl-N-pentylamino)-propionic acid which is reacted analogously to Example 3 to give the diphosphonic acid; yield 87% of theory; m.p. 168°-176° C.; Mrel =0.14.

reactant | nonylamine | 2 mole | C(CCCCCCCC)N | C9H21N
reactant | valeroyl chloride | 1 mole | C(CCCC)(=O)Cl | C5H9ClO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-nonyl-valeric acid amide | C(CCCCCCCC)NC(CCCC)=O | C14H29NO
